US04144342
2-Methyl-3-hydroxy-4-chloromethyl-5-vinylpyridine (20 g.) is suspended in water/methanol (100:25 v/v) and treated with disodium trithiocarbonate (33%) (45 g.). The mixture is stirred at b 50° C. for 4 hours under nitrogen and adjusted to pH 6.2-6.5 with dilute acid. The precipitate is recrystallized from DMF/water to give sodium (2-methyl-3-hydroxy-5-vinyl-4-pyridinyl)methyl trithiocarbonate.

reactant | 2-Methyl-3-hydroxy-4-chloromethyl-5-vinylpyridine | 20 g | CC1=NC=C(C(=C1O)CCl)C=C | C9H10ClNO
reactant | disodium trithiocarbonate | 45 g | C([S-])([S-])=S.[Na+].[Na+]
solvent | water methanol | O.CO
product | sodium (2-methyl-3-hydroxy-5-vinyl-4-pyridinyl)methyl trithiocarbonate | C(SCC1=C(C(=NC=C1C=C)C)O)([S-])=S.[Na+] | InChI=1S/C10H11NOS3.Na/c1-3-7-4-11-6(2)9(12)8(7)5-15-10(13)14;/h3-4,12H,1,5H2,2H3,(H,13,14);/q;+1/p-1
